US05760050
3-(4-Chloro-benzyl)-8,9-dimethoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8,9-dimethoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]-pyridin-5-one* and 4-chlorobenzaldehyde. Yield 48%; mp 173°-175° C.

reactant | 8,9-dimethoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]-pyridin-5-one | COC=1C(=CC2=C(C1)OC(C=1CNCCC12)=O)OC | C14H15NO4
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 3-(4-Chloro-benzyl)-8,9-dimethoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 48% | ClC1=CC=C(CN2CC3=C(CC2)C=2C=C(C(=CC2OC3=O)OC)OC)C=C1 | C21H20ClNO4
